US05580872
3-Bromo-4-chloro-5-fluoro-2-picoline
4-Chloro-5-fluoro-2-picoline, the product of Exmnple 66, is treated with bromine in fuming sulfuric acid containing 65% sulfur trioxide for 7 hours at 80° C. as described by L. van der Does and H. J. Hertog in Rec Tray Chim 81:864 (1965) to afford the title compound.

reactant | 4-Chloro-5-fluoro-2-picoline | ClC1=CC(=NC=C1F)C | C6H5ClFN
reactant | bromine | BrBr | Br2
reactant | sulfuric acid | S(O)(O)(=O)=O | H2O4S
product | 3-Bromo-4-chloro-5-fluoro-2-picoline | BrC=1C(=NC=C(C1Cl)F)C | C6H4BrClFN
